US09388177B2
4-bromo-3-methoxy-N-(2,2,2-trifluoroethyl)benzamide
To a stirred suspension of 4-bromo-3-methoxybenzoic acid (2.0 g) in THF (100 mL) was added 2,2,2-trifluoroethylamine (1.26 g), HATU (3.87 g), and DIPEA (1.7 ml). The mixture was stirred at room temperature for 12 h. Water (350 ml) and saturated sodium bicarbonate solution (350 ml) were added. The organic phase was separated and the aqueous phase was extracted with ethyl acetate. The combined organic extracts were dried (sodium sulfate) and the solvent was removed in vacuum. Silica gel chromatography gave 2.57 g of the title compound.

reactant | 4-bromo-3-methoxybenzoic acid | 2.0 g | BrC1=C(C=C(C(=O)O)C=C1)OC | C8H7BrO3
reactant | 2,2,2-trifluoroethylamine | 1.26 g | FC(CN)(F)F | C2H4F3N
reactant | HATU | 3.87 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1.7 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | sodium bicarbonate | 350 ml | C([O-])(O)=O.[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | Water | 350 ml | O | H2O
product | 4-bromo-3-methoxy-N-(2,2,2-trifluoroethyl)benzamide | 2.57 g | BrC1=C(C=C(C(=O)NCC(F)(F)F)C=C1)OC | C10H9BrF3NO2
